US06734184B1
Acetic anhydride (19 ml) was added directly to formic acid (76 ml). The solution was stirred at room temperature for 30 minutes. A solution of 1-(6-chloropyrimidin-4-yl)-4-{[2-(hydroxyamino)-4-phenylbutyl]sulphonyl}piperazine (17.2 g) in tetrahydrofuran (85 ml) was added in portions, to the above solution at 27° C. over 25 minutes. The solution was stirred at room temperature for 1 hour. The solution was evaporated (water-bath temperature 30° C.) and the residual gum was dissolved in ethyl acetate (500 ml). This solution was treated with saturated aqueous sodium hydrogen carbonate solution (200 ml) and the mixture (pH8) was stirred at room temperature for 16 hours. The ethyl acetate layer was separated, washed with saturated brine (100 ml), dried (Na2SO4), and evaporated to dryness. The residual foam was dissolved in ethanol, a solid separated and the miixture was stirred for 2 days. The solid was collected by filtration, slurry washed with diethyl ether (100 ml), and dried to give N-[1-({[4-(6-chloropyrimidin-4-yl)piperazino]sulphonyl}methyl)-3-phenylpropyl]-N-hydroxyformamide as a colourless solid (12.8 g). mp 155-157° C.

reactant | Acetic anhydride | 19 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 76 ml | C(=O)O | CH2O2
reactant | 1-(6-chloropyrimidin-4-yl)-4-{[2-(hydroxyamino)-4-phenylbutyl]sulphonyl}piperazine | 17.2 g | ClC1=CC(=NC=N1)N1CCN(CC1)S(=O)(=O)CC(CCC1=CC=CC=C1)NO | C18H24ClN5O3S
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
product | N-[1-({[4-(6-chloropyrimidin-4-yl)piperazino]sulphonyl}methyl)-3-phenylpropyl]-N-hydroxyformamide | 12.8 g | ClC1=CC(=NC=N1)N1CCN(CC1)S(=O)(=O)CC(CCC1=CC=CC=C1)N(C=O)O | C19H24ClN5O4S
